US08378104B2
Step B: 1-[3-bromo-2-(tert-butylsulfanyl)phenyl]-N-hydroxymethanimine
A mixture of 3-bromo-2-tert-butylsulfanyl-benzaldehyde (6.7 g, 25 mmol) and hydroxylamine hydrochloride (7.9 g, 116 mmol) in 2-propanol (200 mL) and water (40 mL) was heated to 65-70° C. overnight. 2-Propanol was evaporated and water (150 mL) was added to the residue followed by saturated aqueous sodium bicarbonate to bring the pH to ˜8.5. The mixture was extracted with DCM (3×80 mL). The combined organic fractions were dried over sodium sulfate, filtered, and concentrated to afford the title compound, which was used immediately without further purification. 1H NMR (300 MHz, CD3OD): δ 1.28 (s, 9H), 7.25-7.35 (t, J=7.8 Hz, 1H), 7.79 (d, J=6.6 Hz, 1H), 7.89 (d, J=6.3 Hz, 1H), 8.83 (s, 1H).

reactant | 3-bromo-2-tert-butylsulfanyl-benzaldehyde | 25 mmol, 6.7 g | BrC=1C(=C(C=O)C=CC1)SC(C)(C)C | C11H13BrOS
reactant | hydroxylamine hydrochloride | 116 mmol, 7.9 g | Cl.NO
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
solvent | water | 40 mL | O | H2O
product | 1-[3-bromo-2-(tert-butylsulfanyl)phenyl]-N-hydroxymethanimine | BrC=1C(=C(C=CC1)C=NO)SC(C)(C)C | C11H14BrNOS
